US04235921
3-Methyl-3-azabicyclo[3.1.0]hexane-1carboxylic acid
A solution of 10 g of 3-methyl-3-azabicyclo[3.1.0]-hexane-1-carboxylic acid ethyl ester in 20 ml of ethanol is treated with a solution of 18.8 g of Ba(OH)2 ·8H2O in 500 ml of water. The resultant mixture is boiled under reflux for 15 hours. After cooling, the mixture is neutralized with 10% sulphuric acid. The resultant barium sulphate is filtered off. The filtrate is evaporated and taken up in methanol. After filtration through talc, the filtrate is concentrated to yield the title compound as crystals of M.Pt. 193°-195°.

reactant | 3-methyl-3-azabicyclo[3.1.0]-hexane-1-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C12CN(CC2C1)C | C9H15NO2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 3-Methyl-3-azabicyclo[3.1.0]hexane-1carboxylic acid | CN1CC2(CC2C1)C(=O)O | C7H11NO2
